US07652138B2
I.4.1: methyl 2,4-difluorophenylglyoxylate
50 g (0.44 mol) of 1,3-difluorobenzene is dissolved at 20° C. in 135 ml of carbon disulfide with 73.5 g (0.55 mol) AlCl3 and then 55.15 g (0.45 mol) of methyl oxalate chloride is added and the mixture is stirred for 2.5 hours at 20° C. Ice-cold 2 N aqueous hydrochloric acid is added dropwise while cooling, extracted with ethyl acetate; the organic phase is washed with water and 10% aqueous Na2CO3 solution, dried over MgSO4, and evaporated to dryness. Yield: 38.0 g (43% of theory).

reactant | 1,3-difluorobenzene | 0.44 mol, 50 g | FC1=CC(=CC=C1)F | C6H4F2
reactant | AlCl3 | 0.55 mol, 73.5 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | methyl oxalate chloride | 0.45 mol, 55.15 g | [Cl-].C(C(=O)[O-])(=O)OC
solvent | carbon disulfide | 135 ml | C(=S)=S | CS2
product | methyl 2,4-difluorophenylglyoxylate | FC1=C(C=CC(=C1)F)C(C(=O)OC)=O | C9H6F2O3
